US07851635B2
Thiosemicarbazide hydrochloride (8.30 g, 65.1 mmol) was dissolved in a mixed solvent of methanol (50 mL) and distilled water (50 mL). To the solution was added ethyl benzoylacetate (17.0 mL, 98.2 mmol) and concentrated hydrochloric acid (1.00 mL, 12.0 mmol), and the mixture was stirred at room temperature for 11 hours. The deposited solid was collected by filtration, washed (methanol) and then dried to give 3 phenyl-3-thiosemicarbazonopropionic acid ethyl ester (thiosemicarbazone) (11.1 g, 64%).

reactant | Thiosemicarbazide hydrochloride | 65.1 mmol, 8.30 g | Cl.NNC(=S)N
reactant | ethyl benzoylacetate | 98.2 mmol, 17.0 mL | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | hydrochloric acid | 12.0 mmol, 1.00 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | phenyl-3-thiosemicarbazonopropionic acid ethyl ester (thiosemicarbazone) | 11.1 g, 64% | N(NC(=S)N)=C(C(CC1=CC=CC=C1)=NNC(=S)N)OCC | C13H18N6OS2
